* File: oai22.pex.sp.pex
* Created: Tue Apr 15 17:44:06 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_OAI22%NET3 1 2 4 11 13 14 18 19 20 26
c62 19 0 2.04181e-19
c63 4 0 0.00192328f
c64 1 0 0.00480106f
r65 24 26 0.362375
r66 22 23 0.127301
r67 21 22 0.327401
r68 20 21 0.157391
r69 19 24 0.0489649
r70 19 23 0.343916
r71 16 20 0.0489649
r72 16 18 0.38472
r73 15 18 0.447868
r74 13 15 0.0489649
r75 13 14 0.817044
r76 10 11 0.324039
r77 8 14 0.0489649
r78 8 11 0.184588
r79 4 26 10
r80 2 18 10
r81 1 10 10
.ends

.subckt PM_OAI22%OUT 1 5 10 15 16 21 25 30 32 33
c73 30 0 7.5513e-24
c74 25 0 2.51418e-20
c75 5 0 0.00135434f
c76 1 0 5.30018e-20
r77 33 37 0.186663
r78 30 37 1.7
r79 28 30 0.272024
r80 26 32 0.0371092
r81 26 27 0.145818
r82 25 28 0.0489649
r83 25 27 0.40415
r84 21 23 0.39152
r85 19 32 0.00964403
r86 19 21 0.360432
r87 17 18 0.164334
r88 16 17 0.149613
r89 15 32 0.0371092
r90 15 18 0.276882
r91 13 14 0.420798
r92 12 13 0.356546
r93 10 12 0.315938
r94 8 16 0.0489649
r95 8 14 0.165158
r96 5 10 10
r97 1 23 15
r98 1 21 10
.ends

.subckt PM_OAI22%GND! 2 12 15 16 23 27
c47 12 0 0.00123447f
c48 2 0 0.00127641f
r49 21 27 0.0188364
r50 21 23 1.12113
r51 16 27 0.0271748
r52 16 20 0.498551
r53 15 20 0.149565
r54 12 23 10
r55 2 20 30
.ends

.subckt PM_OAI22%VDD! 2 11 12 17 20 24 31
c31 31 0 0.0233602f
c32 20 0 0.0246355f
r33 31 34 0.39152
r34 29 34 1.42035
r35 25 27 0.327401
r36 24 29 0.0491818
r37 20 23 0.39152
r38 18 25 0.0491818
r39 18 23 1.42035
r40 17 24 1.47962
r41 17 27 0.106867
r42 12 34 15
r43 12 31 10
r44 11 23 15
r45 11 20 10
r46 2 27 30
.ends

.subckt PM_OAI22%INA 1 2 6 14 15 18 23
c34 18 0 1.64939e-19
c35 14 0 3.60811e-19
r36 23 27 0.186663
r37 18 27 1.7
r38 18 21 0.00502177
r39 14 21 25
r40 14 16 7.64087
r41 14 15 7.72192
r42 6 16 33.978
r43 4 15 39.7386
r44 2 6 46.5732
r45 1 4 27.3386
.ends

.subckt PM_OAI22%INB 1 2 6 14 15 18 23
c51 23 0 1.13771e-19
c52 18 0 3.45393e-20
c53 14 0 2.70151e-19
r54 23 27 0.186663
r55 18 27 1.7
r56 18 21 0.00502177
r57 14 21 25
r58 14 16 7.68531
r59 14 15 7.75092
r60 6 16 33.978
r61 4 15 39.7386
r62 2 6 46.5732
r63 1 4 27.3386
.ends

.subckt PM_OAI22%IND 1 2 6 14 15 18 23
c54 23 0 1.30187e-19
c55 18 0 1.274e-19
c56 14 0 2.11846e-19
r57 23 27 0.186663
r58 18 27 1.7
r59 18 21 0.00485757
r60 14 21 25
r61 14 16 7.68531
r62 14 15 7.75092
r63 6 16 33.978
r64 4 15 39.7386
r65 2 6 46.5732
r66 1 4 27.3386
.ends

.subckt PM_OAI22%INC 1 2 6 10 16 19 24
c39 19 0 1.66469e-19
c40 16 0 4.90444e-19
r41 24 28 0.186663
r42 19 28 1.7
r43 19 22 0.00485757
r44 16 22 25
r45 13 16 5.05651
r46 11 13 5.09837
r47 10 13 5.09837
r48 6 11 33.978
r49 4 10 39.7386
r50 2 6 46.5732
r51 1 4 27.3386
.ends

